US07968746B2
Following the amide coupling procedure described in protocol A, 4.98 g 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (19.9 mmol), 3.99 g CDI (24.6 mmol) and 3.01 g 3-amino-2-propanol (39.9 mmol), yielded 5.15 g of 6-hydroxy-N-(2-hydroxypropyl)-2,5,7,8-tetramethylchroman-2-carboxamide as a white powder.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 19.9 mmol, 4.98 g | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 24.6 mmol, 3.99 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-amino-2-propanol | 39.9 mmol, 3.01 g | NCC(C)O | C3H9NO
product | 6-hydroxy-N-(2-hydroxypropyl)-2,5,7,8-tetramethylchroman-2-carboxamide | 5.15 g | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCC(C)O)C)C | C17H25NO4
